US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 8-methoxychroman-4-carboxylic acid, (0.64 g) and [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine (0.83 g) as starting materials, N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-8-methoxychroman-4-carboxamide (0.69 g) was obtained.

reactant | 8-methoxychroman-4-carboxylic acid | 0.64 g | COC=1C=CC=C2C(CCOC12)C(=O)O | C11H12O4
reactant | [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine | 0.83 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)C | C18H24N2
product | N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-8-methoxychroman-4-carboxamide | 0.69 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCOC2=C(C=CC=C12)OC)C1=CC=C(C=C1)C(C)C)C | C29H34N2O3
